US07795436B2
cis-6-(2-Chloro-4-trifluoromethyl-phenyl)-8-methyl-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene
To a solution of cis-3-benzyl-6-(2-chloro-4-trifluoromethyl-phenyl)-8-methyl-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene (25 mg, 0.055 mmol) in MeOH (1.5 mL) was added Pd(OH)2 (5.0 mg, 20 wt %) and catalytic amount of acetic acid. The reaction mixture was stirred at 20° C. for 10 h under H2 atmosphere, filtered through celite and concentrated in vacuo. The residue was chromatographed in silica gel column (CH2Cl2/MeOH 95/5) to give the title compound (16 mg, 0.044 mmol): MS (ES) 366.1 (M+H).

reactant | cis-3-benzyl-6-(2-chloro-4-trifluoromethyl-phenyl)-8-methyl-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene | 0.055 mmol, 25 mg | C(C1=CC=CC=C1)N1CC[C@H]2CC3=C(C=C(C=C3[C@H]2C1)C1=C(C=C(C=C1)C(F)(F)F)Cl)C | C27H25ClF3N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | MeOH | 1.5 mL | CO | CH4O
catalyst | Pd(OH)2 | 5.0 mg | [OH-].[OH-].[Pd+2]
product | cis-6-(2-Chloro-4-trifluoromethyl-phenyl)-8-methyl-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene | 0.044 mmol, 16 mg | ClC1=C(C=CC(=C1)C(F)(F)F)C=1C=C2[C@H]3CNCC[C@H]3CC2=C(C1)C | C20H19ClF3N
